US07160886B2
Preparation of 2-(4-{[(3S,4R)-1-tert-butyl-4-(2,4-difluorophenyl)pyrrolidin-3-yl]carbonyl}piperazin-1-yl)-2-cyclohexyl-N,N-diethylethanamine
To a solution of (3S,4R)-1-tert-butyl-4-(2,4-difluorophenyl)pyrrolidine 3-carboxylic acid A-2 (40 mg, 0.138 mmol) in dichloromethane (10 mL) was added 4-methylmorpholine (0.023 mL, 0.208 mmol), HOBt (20.6 mg, 0.152 mmol), EDC (39.8 mg, 0.208 mmol), and piperazine K-2 (41.9 mg, 0.138 mmol). The reaction mixture was stirred at room temperature for 18 hrs. The reaction mixture was concentrated, purified by preparative TLC (10:1, CHCl3: 2N NH3 in MeOH) to give a yellow oil, to which was added HCl (1M in ether) and the resulting mixture was concentrated to give the title compound. ESI-MS calc. for C31H50F2N40: 532. Found: 533 (M+H). H1 NMR (500 MHz, CD3OD) δ 7.54–7.40 (m, 1H), 7.00–6.82 (m, 2H), 3.92–3.82 (m, 1H), 3.70–3.40 (m, 3H), 3.40–3.25 (m, 2H), 3.24–3.18 (m, 2H), 3.00–2.80 (m, 2H), 2.78–2.42 (m, 8H), 2.40–2.10 (m, 4H), 1.82–1.60 (m, 6H), 1.41–1.00 (m, 19H),

reactant | (3S,4R)-1-tert-butyl-4-(2,4-difluorophenyl)pyrrolidine 3-carboxylic acid | C(C)(C)(C)N1C[C@H]([C@@H](C1)C1=C(C=C(C=C1)F)F)C(=O)O | C15H19F2NO2
reactant | 4-methylmorpholine | 0.208 mmol, 0.023 mL | CN1CCOCC1 | C5H11NO
reactant | HOBt | 0.152 mmol, 20.6 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.208 mmol, 39.8 mg
reactant | piperazine | N1CCNCC1 | C4H10N2
reactant | HCl | 1M | Cl | ClH
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-(4-{[(3S,4R)-1-tert-butyl-4-(2,4-difluorophenyl)pyrrolidin-3-yl]carbonyl}piperazin-1-yl)-2-cyclohexyl-N,N-diethylethanamine | C(C)(C)(C)N1C[C@H]([C@@H](C1)C1=C(C=C(C=C1)F)F)C(=O)N1CCN(CC1)C(CN(CC)CC)C1CCCCC1 | C31H50F2N4O
